US09079902B2
Tert-butyl 8-(6-(N-(2,4-dimethoxybenzyl)-N-(1,2,4-thiadiazol-5-yl)sulfamoyl)-1-methyl-1H-indol-3-yl)-3,4-dihydroisoquinoline-2(1H)-carboxylate (0.223 g, 0.330 mmol) was dissolved in 0.5 mL of DCM and TFA (0.1 ml, 1.298 mmol) was added. The reaction was stirred overnight at room temperature. The reaction was concentrated, dissolved in acetonitrile, and passed through a Biotage Isolute® PE-AX ion exchange column (Biotage AB, Uppsala, SE). The column was flushed several times with acetonitrile, then the product was liberated by flushing several times with an HCl solution in 15% MeOH/EtOAc. The resulting solution was concentrated. The material was redissolved in DCM and ethyl acetate and dried over magnesium sulfate. The solution was filtered and concentrated to afford 1-methyl-3-(1,2,3,4-tetrahydroisoquinolin-8-yl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide as a light pink solid. m/z (ESI) 427.0 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ ppm=7.89 (s, 1 H), 7.79 (s, 1 H), 7.57 (br. s., 1 H), 7.48 (d, J=8.2 Hz, 1 H), 7.39 (d, J=8.7 Hz, 1 H), 7.29 (d, J=7.9 Hz, 1 H), 7.25-7.13 (m, 2 H), 3.99 (br. s., 1 H), 3.89 (s, 3 H), 2.99 (br. s., 2 H)

reactant | Tert-butyl 8-(6-(N-(2,4-dimethoxybenzyl)-N-(1,2,4-thiadiazol-5-yl)sulfamoyl)-1-methyl-1H-indol-3-yl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | 0.330 mmol, 0.223 g | COC1=C(CN(S(=O)(=O)C2=CC=C3C(=CN(C3=C2)C)C=2C=CC=C3CCN(CC23)C(=O)OC(C)(C)C)C2=NC=NS2)C=CC(=C1)OC | C34H37N5O6S2
reactant | TFA | 1.298 mmol, 0.1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 1-methyl-3-(1,2,3,4-tetrahydroisoquinolin-8-yl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | CN1C=C(C2=CC=C(C=C12)S(=O)(=O)NC1=NC=NS1)C=1C=CC=C2CCNCC12 | C20H19N5O2S2
